US03962248
348.5 g of 1-benzyl-4-tert-butyl piperazine are dissolved in 1200 cc of 99% ethanol and 10 g of a 5% palladium/charcoal catalyst are added to the resulting solution. The solution is subsequently shaken in a hydrogenation apparatus, in a hydrogen atmosphere (1 atmosphere) and at room temperature, until the take up of hydrogen is complete. Filtration is subsequently effected, the filtrate is concentrated by evaporation in a vacuum and the residue is distilled in a vacuum. 1-tert-butyl piperazine is obtained in the form of a colourless oil, having a B.P. of 66°-70° at 12 mm of Hg, which crystallizes upon standing. The crystals have a M.P. of 35°-40°.

reactant | 1-benzyl-4-tert-butyl piperazine | 348.5 g | C(C1=CC=CC=C1)N1CCN(CC1)C(C)(C)C | C15H24N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1200 cc | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 1-tert-butyl piperazine | C(C)(C)(C)N1CCNCC1 | C8H18N2
